US04198418
A homogeneous solution of 1.8 g of 2-chloro-1'-cyano-10,11-dihydro-11-oxospiro[dibenz(b,f)oxepin-10,4'-piperidine], Example 4, in 20 ml of 3 N hydrochloric acid and 10 ml of glacial acetic acid is stirred at 110°-120° C. for 16 hours and then the solution is permitted to cool to ambient temperature. Thereafter, the solution is diluted with 50 ml of water and then is rotary evaporated at 80° C. until 50 ml of water is removed and the dilution and evaporation process is repeated. The residue is diluted with 200 ml of water and the diluted solution is successively cooled in an ice bath, basified to pH 9 with a small amount of 58% ammonium hydroxide and extracted thrice with 80 ml portions of ether. The combined ether extracts are sequentially washed twice with two 80 ml portions of water and one 40 ml portion of saturated sodium chloride and then dried over magnesium sulfate and finally evaporated to dryness leaving an oil. The oil is dissolved in ether where it is converted to its hydrobromic acid salt. The salt is recrystallized from acetone to provide crystals of 2-chloro-10,11-dihydro-11-oxospiro[dibenz(b,f)oxepin-10,4'-piperidine]hydrobromide which lose their regular shape upon heating above 125° C. and the resulting glass melts at 223°-225° C.

reactant | 2-chloro-1'-cyano-10,11-dihydro-11-oxospiro[dibenz(b,f)oxepin-10,4'-piperidine] | 1.8 g | ClC1=CC2=C(OC3=C(C=CC=C3)C3(CCN(CC3)C#N)C2=O)C=C1 | C19H15ClN2O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | Br | BrH
solvent | hydrochloric acid | 3 N, 20 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-chloro-10,11-dihydro-11-oxospiro[dibenz(b,f)oxepin-10,4'-piperidine]hydrobromide | Br.ClC1=CC2=C(OC3=C(C=CC=C3)C3(CCNCC3)C2=O)C=C1 | InChI=1S/C18H16ClNO2.BrH/c19-12-5-6-15-13(11-12)17(21)18(7-9-20-10-8-18)14-3-1-2-4-16(14)22-15;/h1-6,11,20H,7-10H2;1H
